US05006159
2-Propionyl-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)cyclohex-2-en-1-one
A solution of 1.7 g (15.0 mmol) of potassium t-butoxide in 20 mL of methyl sulfoxide at room temperature was treated with 2.0 g (7.7 mmol) of 2-propionyl-3-hydroxy-5-((4-hydroxyphenyl)-phenyl)cyclohex-2-en-1-one. After 15 minutes of stirring, 2.0 g (11 mmol) of 3-fluorophenylmethylsulfone was added thereto and the solution was heated, under nitrogen, at 120° C. for 7 hours. The mixture was cooled to room temperature, poured into 100 mL of cold water and washed with 30 mL of diether ether and acidified with 1N HCl to pH 4 and extracted thrice with 20 mL portions of methylene chloride. The combined extracts were dried over MgSO4, filtered and passed through a short column of silica gel. Evaporation of the solvent afforded the above named product as a light green oil. The product was recovered in a yield of 2.5 g (78 percent of theoretical). A small sample was crystallized to reveal the product as a white solid which melted at 109.5°-113.5° C. 1H NMR (CDCl3) δ1.17 (t, J=7 Hz, 3H, --CH2CH3), 2.63-3.65 (m includes s at 3.03 for CH3SO2 --, 10H), 6.97-7.78 (m, 8H, aromaties), 18.1 (s, 1H, enol H).

reactant | potassium t-butoxide | 15.0 mmol, 1.7 g | CC(C)([O-])C.[K+]
reactant | 2-propionyl-3-hydroxy-5-((4-hydroxyphenyl)-phenyl)cyclohex-2-en-1-one | 7.7 mmol, 2.0 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C=CC=C1)C1=CC=C(C=C1)O)=O | C21H20O4
reactant | 3-fluorophenylmethylsulfone | 11 mmol, 2.0 g | FC=1C=C(C=CC1)CS(=O)(=O)CC1=CC(=CC=C1)F | C14H12F2O2S
reactant | water | 100 mL | O | H2O
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | 2-Propionyl-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=CC(=CC=C1)S(=O)(=O)C)=O | C22H22O6S
